US08426447B2
Synthesis of (S)-1′-bromo-2′-(neopentyloxy)-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine
A vial was charged with (S)-2-amino-1′-bromo-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol (163 mg, 0.384 mmol), cesium carbonate (375 mg, 1.152 mmol), and DMF (2.0 mL). The mixture was stirred for 10 min, then 1-iodo-2,2-dimethylpropane (102 μL, 0.768 mmol) was added. The vial was sealed and heated in a Biotage Initiator microwave reactor for 2 h at 110° C. LCMS at this time shows no starting material and mainly desired product. The mixture was partitioned between water and EtOAc. Brine was added to break up the emulsion that formed and this was partially successful. The aqueous layer was extracted with EtOAc (2×), and the combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was chromatographed on a 50-g SNAP column, eluting with 0-70% of a 90:10:1 mix of DCM/MeOH/NH4OH in DCM to give (S)-1′-bromo-2′-(neopentyloxy)-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as an off-white solid after evaporation from DCM/hexane.

reactant | (S)-2-amino-1′-bromo-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | 0.384 mmol, 163 mg | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=C(C23)Br)O)C=2C=NC=CC2)N1 | C20H14BrN3O3
reactant | cesium carbonate | 1.152 mmol, 375 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-iodo-2,2-dimethylpropane | 0.768 mmol, 102 μL | ICC(C)(C)C | C5H11I
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | (S)-1′-bromo-2′-(neopentyloxy)-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | BrC1=C(C=CC=2OC3=CC=C(C=C3[C@@]3(C12)N=C(OC3)N)C=3C=NC=CC3)OCC(C)(C)C | C25H24BrN3O3
